US08748418B2
To a solution of (5R,6R)-6-fluoro-5-(2-fluorophenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (1.2 mmol) in sulfuric acid (5.0 ml) was added at 0° C. red fuming nitric acid (1.9 mmol) over a period of 20 min and stirring was continued for 30 min. The solution was dropped slowly into ice/water (60 ml), the pH was adjusted to 9 by addition of aqueous 4 N NaOH and extracted with ethyl acetate. The organic layer was dried, evaporated and the residue purified by chromatography on silica-NH2 using n-heptane/ethyl acetate to give (5R,6R)-6-fluoro-5-(2-fluoro-5-nitro-phenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine as a pale yellow solid. MS (ISP): m/z=286.2 [M+H]+.

reactant | (5R,6R)-6-fluoro-5-(2-fluorophenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 1.2 mmol | F[C@@H]1[C@@](N=C(COC1)N)(C)C1=C(C=CC=C1)F | C12H14F2N2O
reactant | nitric acid | 1.9 mmol | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | sulfuric acid | 5.0 ml | S(O)(O)(=O)=O | H2O4S
product | (5R,6R)-6-fluoro-5-(2-fluoro-5-nitro-phenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | F[C@@H]1[C@@](N=C(COC1)N)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F | C12H13F2N3O3
